US20010004670A1
2,2,2-Trifluoro-1-(2-hydroxyphenyl)ethanol
9.3 g (100 mmol) of phenol and 3.9 g (25 mmol) of 75% fluoral hydrate are introduced into a 100 ml reactor. 5.0 g of a catalyst are added and the mixture is heated at 50° C. for 5 hours. The nature of the catalyst employed and the yields of monocondensed products obtained, with their ortho/para ratio, are reported in Table I below.

reactant | phenol | 100 mmol, 9.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | fluoral hydrate | 25 mmol, 3.9 g | C(C(F)(F)F)(O)O | C2H3F3O2
product | 2,2,2-Trifluoro-1-(2-hydroxyphenyl)ethanol | FC(C(O)C1=C(C=CC=C1)O)(F)F | C8H7F3O2
